US05401825
n-Butyl Urea Styrene:
1.00 g (8.40 mmol) of p-aminostyrene (99% Tokyo Kasei) was added to a 250 ml round bottom flask containing 10 ml of chloroform. After ten minutes of mixing, 0.84 g (8.47 mmol) of n-butyl isocyanate (99% Aldrich) was added dropwise. Within seconds, a yellow precipitate formed. Chloroform (20 ml) was added to aid stirring. The precipitate was filtered to remove the reaction liquid, then washed with 20 ml of chloroform resulting in a pale yellow powder (1.78 g, 96% crude yield, mp=116° C.).

reactant | p-aminostyrene | 8.40 mmol, 1.00 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | n-butyl isocyanate | 8.47 mmol, 0.84 g | C(CCC)N=C=O | C5H9NO
solvent | Chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | n-Butyl Urea Styrene | C=CC1=CC=CC=C1.C(CCC)NC(=O)N | InChI=1S/C8H8.C5H12N2O/c1-2-8-6-4-3-5-7-8;1-2-3-4-7-5(6)8/h2-7H,1H2;2-4H2,1H3,(H3,6,7,8)
